US06897231B2
SYNTHESIS OF 3-PHENYL-5-(PHENYLMETHOXY)-1H-INDAZOLE
To a solution of N-[4-hydroxy-2-(phenylcarbonyl)phenyl]benzamide (4.0 g, 12.6 mmol) in dimethyl formamide (DMF) (15 mL) was added potassium carbonate (K2CO3) (large excess) then benzyl bromide (660 μL, 5.5 mmol). The reaction was stirred overnight. It was added to water (100 mL) then extracted with ethyl acetate (3×40 mL). The combined organic layers were dried (Na2SO4) then concentrated under vacuo to give a solid which was recrystallized with ethyl acetate/hexane to give the title compound (3.24 g, 63% yield, analytical).

reactant | N-[4-hydroxy-2-(phenylcarbonyl)phenyl]benzamide | 12.6 mmol, 4.0 g | OC1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)C(=O)C1=CC=CC=C1 | C20H15NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 5.5 mmol, 660 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 mL | O | H2O
reactant | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
product | 3-PHENYL-5-(PHENYLMETHOXY)-1H-INDAZOLE | 3.24 g, 63% yield | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C20H16N2O
